US07022707B2
1-Bromo-3-(bromomethyl)-2,4-difluoro-benzene
Bromo-2,4-difluoro-3-methyl-benzene (22 g, 0.106 M) and N-bromosuccinimide (22.7 g, 0.128 M) were dissolved in tetrachloromethane (800 mL). Dibenzoylperoxide (0.52 g, 2 mM) was added and the mixture was irradiated for 1 h. Succinimide was removed by filtration of the cooled mixture and the filtrate was washed with water. The water phase was extracted with dichloromethane. Organic phases were pooled, dried with MgSO4 and and evaporated to yield a yellowish oil (32 g). The residue was purified by column chromatography (silica gel; n-hexane) to yield 28.4 g (94%) of the title compound as a colorless oil. MS (EI): 286.0 (M)+.

reactant | Bromo-2,4-difluoro-3-methyl-benzene | 0.106 M, 22 g | BrC1=C(C(=C(C=C1)F)C)F | C7H5BrF2
reactant | N-bromosuccinimide | 0.128 M, 22.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrachloromethane | 800 mL | ClC(Cl)(Cl)Cl | CCl4
catalyst | Dibenzoylperoxide | 2 mM, 0.52 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-Bromo-3-(bromomethyl)-2,4-difluoro-benzene | 32 g | BrC1=C(C(=C(C=C1)F)CBr)F | C7H4Br2F2
